US05321026
A suspension of N-propyl-10-[1-(1-pyrrolidinyl)-propyl]-2-phenothiazinecarboxamide, L series (0.6 g), cyclopropylmethyl bromide (0.74 cc), sodium carbonate (1 g) and sodium iodide (0.5 g) in a mixture of acetone (25 cc) and dimethylformamide (0.5 cc) is brought to reflux with stirring for 40 hours, cooled and filtered, and the filtrate is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 55°-60° C. The orange-colored oily residue (1.98 g) is taken up with stirring with isopropyl ether (35 cc) for 16 hours at a temperature in the region of 20° C. The suspension obtained is filtered and the solid is drained, washed with isopropyl ether (2×10 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 37° C. This yellow solid (1.25 g) is taken in dichloromethane (12 cc) with stirring for 2 hours and the suspension obtained is filtered. The filtrate is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. and the orange-colored oily residue (0.69 g) is solidified by stirring for one hour in diethyl ether (30 cc). The solid formed is separated by filtration, washed with diethyl ether (2×5 cc), drained and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 37° C. 1-Cyclopropylmethyl-1-[2-propyl]pyrrolidinium iodide, L series (0.59 g), is thereby obtained in the form of an orange-yellow solid, m.p. about 125°-130° C.

reactant | N-propyl-10-[1-(1-pyrrolidinyl)-propyl]-2-phenothiazinecarboxamide | C(CC)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CC)N1CCCC1 | C23H29N3OS
reactant | cyclopropylmethyl bromide | 0.74 cc | C1(CC1)CBr | C4H7Br
reactant | sodium carbonate | 1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.5 g | [I-].[Na+]
solvent | acetone | 25 cc | CC(=O)C | C3H6O
solvent | dimethylformamide | 0.5 cc | CN(C=O)C | C3H7NO
product | 1-Cyclopropylmethyl-1-[2-propyl]pyrrolidinium iodide | [I-].C1(CC1)C[N+]1(CCCC1)C(C)C | InChI=1S/C11H22N.HI/c1-10(2)12(7-3-4-8-12)9-11-5-6-11;/h10-11H,3-9H2,1-2H3;1H/q+1;/p-1
